US06890919B2
A solution of 33.74 g of O-(2-nitro-4-chlorophenyl)salicylic acid in 150 mL of methanol was hydrogenated over Raney nickel (6.8 g) at room temperature and 30 psi pressure with stirring for 20 hours. The crude amino acid obtained on evaporation of the methanol was refluxed in 150 mL of xylene for 20 hours with continuous removal of water. The xylene solution was cooled and the xylene was removed, the residue was washed with THF, filtered and dried to provide 8-chloro-10H-dibenzo[b,f][1,4]oxazepin-11-one as gray solid (13.3 g, 40%), mp 260-261°. 1H NMR (300 MHz, DMSO-d6), δ 7.15-7.2 (m, 2H), 7.3-7.4 (m, 3H), 7.64 (ddd, 1H, J=1.9, 7.8 and 8.4 Hz), 7.78 (dd, 1H, J=1.5 and 7.7 Hz), 10.589 (s, 1H, —NH).

reactant | O-(2-nitro-4-chlorophenyl)salicylic acid | 33.74 g | [N+](=O)([O-])C1=C(C=CC(=C1)Cl)OC(C=1C(O)=CC=CC1)=O | C13H8ClNO5
reactant | water | O | H2O
solvent | methanol | 150 mL | CO | CH4O
catalyst | Raney nickel | 6.8 g | [Ni] | Ni
solvent | xylene | 150 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 8-chloro-10H-dibenzo[b,f][1,4]oxazepin-11-one | 13.3 g, 40% | ClC1=CC2=C(OC3=C(C(N2)=O)C=CC=C3)C=C1 | C13H8ClNO2
